US07745477B2
N-(4-tert-butyl-benzyl)-3-chloro-N-[2-(3-fluoro-5-trifluoromethyl-phenyl)-ethyl]-5-propyl-benzamide
The title compound was prepared in analogy to example 3, using 3-bromo-N-(4-tert-butyl-benzyl)-5-chloro-N-[2-(3-fluoro-5-trifluoromethyl-phenyl)-ethyl]-benzamide (Example B177) and n-propylboronic acid. 534.3 [ISP (M+H)+]

reactant | 3-bromo-N-(4-tert-butyl-benzyl)-5-chloro-N-[2-(3-fluoro-5-trifluoromethyl-phenyl)-ethyl]-benzamide | BrC=1C=C(C(=O)N(CCC2=CC(=CC(=C2)C(F)(F)F)F)CC2=CC=C(C=C2)C(C)(C)C)C=C(C1)Cl | C27H25BrClF4NO
reactant | n-propylboronic acid | C(CC)B(O)O | C3H9BO2
product | N-(4-tert-butyl-benzyl)-3-chloro-N-[2-(3-fluoro-5-trifluoromethyl-phenyl)-ethyl]-5-propyl-benzamide | C(C)(C)(C)C1=CC=C(CN(C(C2=CC(=CC(=C2)CCC)Cl)=O)CCC2=CC(=CC(=C2)C(F)(F)F)F)C=C1 | C30H32ClF4NO
